US05424330
Preparation of 2,3-dihydro-6-hydroxy-4,7-dimethoxybenzofuran-5-carboxylic acid (as precursor)
5 g of 6-hydroxy-4,7-dimethoxybenzofuran-5-carboxylic acid in 75 ml of ethanol/25 ml of H2O/0.8 g of NaOH are hydrogenated in the presence of 1 g of Pd/C (10%) under atmospheric pressure and at 50° C. until uptake of hydrogen is complete. The mixture is filtered, the ethanol is removed by distillation, the aqueous phase is acidified, and the solid is filtered off with suction. 3.7 g of product are obtained and reacted further without purification.

reactant | 6-hydroxy-4,7-dimethoxybenzofuran-5-carboxylic acid | 5 g | OC1=C(C2=C(C=CO2)C(=C1C(=O)O)OC)OC | C11H10O6
reactant | H2O | 0.8 g | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 2,3-dihydro-6-hydroxy-4,7-dimethoxybenzofuran-5-carboxylic acid | 3.7 g | OC1=C(C2=C(CCO2)C(=C1C(=O)O)OC)OC | C11H12O6
